US05990101
c) 2,5-dihydroxymethylimidazo[5,1-b]thiazole
A 9.4 ml portion of a 1.5N diisobutylaluminum hydride/n-hexane solution was added to 10 ml of an anhydrous tetrahydrofuran solution containing 0.758 g of 2,5-diethoxycarbonylimidazo[5,1-b]thiazole, and the mixture was then stirred at -78° C. for 2 hours. Then, 10 ml of methanol was added to the reaction solution, and after stirring for 30 minutes, the solution was subjected to Celite filtration. The solvent was evaporated under reduced pressure, and the resulting crude product was purified by a silica gel column chromatograph to obtain 383.3 mg of the title compound.

reactant | diisobutylaluminum hydride n-hexane | 1.5N | [H-].C(C(C)C)[Al+]CC(C)C.CCCCCC
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | 2,5-diethoxycarbonylimidazo[5,1-b]thiazole | 0.758 g | C(C)OC(=O)C1=CN2C(S1)=CN=C2C(=O)OCC | C11H12N2O4S
solvent | methanol | 10 ml | CO | CH4O
product | 2,5-dihydroxymethylimidazo[5,1-b]thiazole | 383.3 mg | OCC1=CN2C(S1)=CN=C2CO | C7H8N2O2S
